US07001897B2
To a solution of 3-methanesulfonyloxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine (760 mg, 1.45 mmol) (obtained as described in Reference Example 57(6)) in dimethylformamide (38 ml) was added potassium thioacetate (993 mg, 8.70 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) for 9 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3acetylthio-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine (397 mg, yield 56%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine | 1.45 mmol, 760 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H21N5O8S2
reactant | potassium thioacetate | 8.70 mmol, 993 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | 3acetylthio-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine | 397 mg, yield 56% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H21N5O6S2
